US07781438B2
Preparation of 3-Chloro-8-cyano-naphthalene-2-carboxylic acid ethyl ester
Zn(CN)2 (1.50 g, 12.80 mmol, 2.0 equiv) and Pd(PPh3)4 (296 mg, 0.26 mmol, 0.04 equiv) were added at room temperature under an atmosphere of argon to a degassed solution of 3-chloro-8-trifluoromethanesulfonyloxy-naphthalene-2-carboxylic acid ethyl ester (2.45 g, 6.40 mmol) in N,N-dimethylformamide (25 ml). The mixture was heated to 125° C. After 30 minutes, TLC analysis indicated complete conversion. After cooling, water was added, and the mixture was extracted with EtOAc. The combined organic layers were washed with brine, dried over Na2SO4, filtered and concentrated in vacuo. Purification via flash chromatography (gradient of hexane/EtOAc 100:0 to 90:10) afforded the title compound (1.43 g, 86%, 1:1.3 mixture of regioisomers A:B) as a white solid. For analytical purposes, the regioisomers could be separated by careful chromatography on silica gel. Regioisomer A: 1H NMR (400 MHz, CDCl3): δ=8.41 (s, 1H), 8.32 (s, 1H), 8.13 (br d, J=8.3 Hz, 1H), 8.01 (dd, J=7.1/1.0 Hz, 1H), 7.60 (dd, J=8.3/7.3 Hz, 1H), 4.47 (q, J=7.1 Hz, 2H), 1.45 (t, J=7.1 Hz, 3H). MS (ES+): 260 (M+H)+. Regioisomer B: 1H NMR (400 MHz, CDCl3): δ=8.65 (s, 1H), 8.02 (d, J=8.3 Hz, 1H), 8.02 (s, 1H), 7.96 (dd, J=7.4/1.3 Hz, 1H), 7.65 (dd, J=8.3/7.4 Hz, 1H), 4.49 (q, J=7.1 Hz, 2H), 1.46 (t, J=7.3 Hz, 3H). MS (ES+): 260 (M+H)+.

reactant | 3-chloro-8-trifluoromethanesulfonyloxy-naphthalene-2-carboxylic acid ethyl ester | 6.40 mmol, 2.45 g | C(C)OC(=O)C1=CC2=C(C=CC=C2C=C1Cl)OS(=O)(=O)C(F)(F)F | C14H10ClF3O5S
reactant | water | O | H2O
reactant | N,N-dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
catalyst | Zn(CN)2 | 12.80 mmol, 1.50 g, 2.0 equiv | [C-]#N.[C-]#N.[Zn+2]
catalyst | Pd(PPh3)4 | 0.26 mmol, 296 mg, 0.04 equiv | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3-Chloro-8-cyano-naphthalene-2-carboxylic acid ethyl ester | C(C)OC(=O)C1=CC2=C(C=CC=C2C=C1Cl)C#N | C14H10ClNO2
